US05523280
3-(3-Bromophenyl)-4-(methylsulphonyl)pyrazole (compound 147)
1.1 g (0.004 mol) of (3'-bromo)(methylsulphonyl)acetophenone is dissolved in 20 ml (0.14 mol) of N,N-dimethylformamide dimethyl acetal and heated to 70° C. and then, after isolation of the intermediate enaminone, treated with 0.3 ml (0.006 mol) of hydrazine hydrate according to the procedure described in Example No. 1. After purification by trituration in diisopropyl ether, a beige powder is obtained:

reactant | (3'-bromo)(methylsulphonyl)acetophenone | 0.004 mol, 1.1 g | BrC=1C=C(C=CC1)C(CS(=O)(=O)C)=O | C9H9BrO3S
reactant | N,N-dimethylformamide dimethyl acetal | 0.14 mol, 20 ml | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine hydrate | 0.006 mol, 0.3 ml | O.NN
product | 3-(3-Bromophenyl)-4-(methylsulphonyl)pyrazole | BrC=1C=C(C=CC1)C1=NNC=C1S(=O)(=O)C | C10H9BrN2O2S
